US08049016B2
Preparation of -(5-acetyl-4-methylthiazol-2-yl)-3-((2,2-difluorocyclopropyl)methyl) imidazolidin-2-one
Following the procedure as describe in Preparation 16, making variations as required to replace ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate with 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one to react with bromomethyl-2,2-difluorocyclopropane, the title compound was obtained as a yellow solid in 49% yield: mp 146-148° C.; 1H NMR (300 MHz, DMSO-d6) δ 4.00 (t, J=9.0 Hz, 2H), 3.65-3.48 (m, 2H), 3.20-3.13 (m, 2H), 2.51 (s, 3H), 2.41 (s, 3H), 2.05-2.18 (m, 1H), 1.68-1.56 (m, 1H), 1.38-1.27 (m, 1H); 13C NMR (75 MHz, DMSO-d6) δ 190.8, 160.1, 155.1, 154.9, 125.8, 114.8 (t), 42.4, 42.1, 41.1 (d), 30.4, 20.2 (t), 18.6, 14.9 (t); MS (ES+) m/z 316.9 (M+1).

reactant | ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NNC1=O | C9H10N4O3S
reactant | 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one | C(C)(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C9H11N3O2S
reactant | bromomethyl-2,2-difluorocyclopropane | BrCC1C(C1)(F)F | C4H5BrF2
product | (5-acetyl-4-methylthiazol-2-yl)-3-((2,2-difluorocyclopropyl)methyl) imidazolidin-2-one | 49% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1C(C1)(F)F)=O)C | C13H15F2N3O2S
